US07678802B2
2-Amino-5-fluoro-4-methyl-benzoic acid.
Chloral hydrate (76 g) was dissolved in 1 L water and subsequently 1 kg Na2SO4, 94.1 g H2NOH.HCl, and 51.3 g 4-fluoro-3-methyl aniline in 250 ml 5% aq. HCl were added. The suspension was heated to boiling and kept boiling for 1 minute. After cooling down to room temperature, the solid was filtered off and washed twice with warm water (40° C.). Yield after drying overnight at 60° C. under vacuum was 275 g, which was used without further purification or drying. The 275 g of crude product was slowly poured in 500 ml of concentrated H2SO4 at 50° C., such that the temperature was kept below 75° C. After completion of addition, the dark/purple solution was heated to 85° C. for 15 minutes. After cooling down to room temperature, the solution was poured in 2 L of ice water and was left standing for an half hour. The red solid was filtered and washed twice with cold water. Subsequently, the solid was dried under vacuum at 70° C. Yield: 69.9 g (quantitatively from 4-fluoro-3-methyl aniline) of a mixture of two regio isomers: 5-fluoro and 3-fluoro 3-methyl-isatin in a ratio of about 55:45. The mixture of isatins (69.4 g) was dissolved in 1 L 1N aq. NaOH and subsequently 100 ml of 30% aq. H2O2 was added drop wise, keeping the temperature below 30° C. After completion of addition, the mixture was heated to 45° C. until evolution of gas ceased. The solution was cooled to room temperature, filtered and acidified with glacial acetic acid. The precipitate formed was filtered off, washed twice with water and air-dried 45° C. Yield: 29.4 g of 5-fluoro-4-methyl-anthranilic acid iii.

reactant | Chloral hydrate | 76 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | Na2SO4 | 1 kg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | H2NOH.HCl | 94.1 g | NO.Cl
reactant | 4-fluoro-3-methyl aniline | 51.3 g | FC1=C(C=C(N)C=C1)C | C7H8FN
solvent | water | 1 L | O | H2O
solvent | HCl | 250 ml | Cl | ClH
product | 2-Amino-5-fluoro-4-methyl-benzoic acid | NC1=C(C(=O)O)C=C(C(=C1)C)F | C8H8FNO2
